US07968734B2
3-Phenyl-2-(Phenylseleno)propionaldehyde:
General Procedure B for α-Selenenylation of Aldehyde (Table 9, Entries 11 and 12): To a vial containing an aldehyde (0.25 mmol), and 0.5 mL of anhydrous CH2Cl2 was added catalyst L-prolinamide I (0.005 mmol) at room temperature. The mixture was vigorously stirred for 0.5 h in the presence of 4 Å molecule sieves (40 mg). Then N-(phenylseleno)phthalimide (0.3 mmol) was added. After 0.5 h, the molecule sieves were removed by filtrating paper and then the filtrate was treated with water (5 mL), the solution was extracted with ethyl acetate (3×5 mL). The combined extracts were dried over MgSO4, filtered, and concentrated iii vacuo. The resulting residue was then purified by silica gel chromatography, eluting with EtOAc/Hexane (1/40) to provide a clear oil.

reactant | L-prolinamide | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | N-(phenylseleno)phthalimide | 0.3 mmol | C1(=CC=CC=C1)[Se]N1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO2Se
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-2-(Phenylseleno)propionaldehyde | C1(=CC=CC=C1)CC(C=O)[Se]C1=CC=CC=C1 | C15H14OSe
